US08030306B2
To a round bottom flask was added 4-(5-(4-chlorophenyl)-6-hydrazinyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile (70 mg, 0.1367 mmol), N-Boc-alanine (24 mg, 0.1367 mmol), EDAC (30 mg, 0.150 mmol), HOBT (20.3 mg, 0.150 mmol) THF (5 ml) and diisopropyl ethyl amine (0.026 ml, 0.150 mmol). The reaction was stirred at rt for 5 hr. After this time the reaction mixture was diluted with EtOAc (25 ml). The resulting solution was washed with water (2×15 ml) and saturated NaCl (15 ml). The organic layer was dried over MgSO4, filtered and concentrated. The crude product was purified by silica gel column chromatography (8 g silica gel) eluting with a gradient of 20%-100% EtOAc/Hex to give product tert-butyl 2-(2-(4-(4-chlorophenyl)-5-(4-cyanophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-1,6-dihydropyridazin-3-yl)hydrazinyl)-2-oxoethylcarbamate as a light yellow solid (54 mg, 60% yield)

reactant | 4-(5-(4-chlorophenyl)-6-hydrazinyl-2-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-3-oxo-2,3-dihydropyridazin-4-yl)benzonitrile | 0.1367 mmol, 70 mg | ClC1=CC=C(C=C1)C1=C(C(N(N=C1NN)CC=1C(=NC(=CC1)C(F)(F)F)C)=O)C1=CC=C(C#N)C=C1 | C25H18ClF3N6O
reactant | N-Boc-alanine | 0.1367 mmol, 24 mg | C(=O)(OC(C)(C)C)N[C@@H](C)C(=O)O | C8H15NO4
reactant | EDAC | 0.150 mmol, 30 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBT | 0.150 mmol, 5 ml, 20.3 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | diisopropyl ethyl amine | 0.150 mmol, 0.026 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | EtOAc | 25 ml | CCOC(=O)C | C4H8O2
product | tert-butyl 2-(2-(4-(4-chlorophenyl)-5-(4-cyanophenyl)-1-((2-methyl-6-(trifluoromethyl)pyridin-3-yl)methyl)-6-oxo-1,6-dihydropyridazin-3-yl)hydrazinyl)-2-oxoethylcarbamate | 54 mg, 60% yield | ClC1=CC=C(C=C1)C=1C(=NN(C(C1C1=CC=C(C=C1)C#N)=O)CC=1C(=NC(=CC1)C(F)(F)F)C)NNC(CNC(OC(C)(C)C)=O)=O | C32H29ClF3N7O4
